US08470831B2
Diethylazodicarboxylate (1.13 mL 5.83 mmol) was added dropwise to a solution of (E)-3-(3-acetoxy-4-methoxy-phenyl)-N-(3-hydroxy-phenyl)-acrylamide (0.763 g, 2.33 mmol), (5-methyl-furan-2-yl)-methanol (0.392 g, 3.5 mmol) and triphenylphosphine (1.53 g, 5.83 mmol) in dry THF (20 mL) at 0° C. The resulting solution was allowed to reach RT and stirred for 16 hrs. The reaction mixture was then diluted with DCM and washed with water, aqueous hydrochloric acid, and brine. The organic layer was then dried over sodium sulphate and evaporated. The resulting raw material was taken up, without further purification, with a 3N methanolic solution of hydrochloric acid (5 mL-15 mmols) and stirred at RT for 16 hrs, concentrated under reduced pressure, taken up with solvent an re-evaporated (3 times with MeOH and once with acetone) to give a residue that was purified by silica gel column chromatography (eluant DCM/MeOH 98/2) to obtain 15 mg of the title (E)-3-(3-hydroxy-4-methoxy-phenyl)-N-[3-(5-methyl-furan-2-ylmethoxy)-phenyl]-acrylamide.

reactant | Diethylazodicarboxylate | 5.83 mmol, 1.13 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (E)-3-(3-acetoxy-4-methoxy-phenyl)-N-(3-hydroxy-phenyl)-acrylamide | 2.33 mmol, 0.763 g | C(C)(=O)OC=1C=C(C=CC1OC)/C=C/C(=O)NC1=CC(=CC=C1)O | C18H17NO5
reactant | (5-methyl-furan-2-yl)-methanol | 3.5 mmol, 0.392 g | CC1=CC=C(O1)CO | C6H8O2
reactant | triphenylphosphine | 5.83 mmol, 1.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-3-(3-hydroxy-4-methoxy-phenyl)-N-[3-(5-methyl-furan-2-ylmethoxy)-phenyl]-acrylamide | 15 mg | OC=1C=C(C=CC1OC)/C=C/C(=O)NC1=CC(=CC=C1)OCC=1OC(=CC1)C | C22H21NO5
